US07429667B2
4-(2,5-Dichloro-phenoxy)-3-fluoro-phenylamine
A mixture of 1-(2,5-dichloro-phenoxy)-2-fluoro-4-nitro-benzene (0.5 g, 1.7 mmol) and tin chloride (1.57 g, 8.3 mmol) in 30 ml of anhydrous ethanol was heated to 70° C. under argon and stirred for 4 hours. The solution was allowed to cool and then poured into ice. The solution was made slightly basic (pH 7-8) by addition of saturated aqueous sodium bicarbonate solution, then extracted with ethyl acetate. The organic phase was thoroughly washed with brine and dried treated with anhydrous sodium sulfate. Evaporation of the solvent left a yellow oily product which was used for the next step without further purification.

reactant | 1-(2,5-dichloro-phenoxy)-2-fluoro-4-nitro-benzene | 1.7 mmol, 0.5 g | ClC1=C(OC2=C(C=C(C=C2)[N+](=O)[O-])F)C=C(C=C1)Cl | C12H6Cl2FNO3
reactant | tin chloride | 8.3 mmol, 1.57 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-(2,5-Dichloro-phenoxy)-3-fluoro-phenylamine | ClC1=C(OC2=C(C=C(C=C2)N)F)C=C(C=C1)Cl | C12H8Cl2FNO
